US09446130B2
To a solution of N-((3-chloropyrazin-2-yl)methyl)-1-methyl-4,5,6,7-tetrahydro-1H-indazole-4-carboxamide (1.5 g, 4.9 mmol) in MeCN (50 mL) was added POCl3 (1.2 g, 7.9 mmol) dropwise and DMF (0.1 mL). The mixture was stirred at 60° C. for 4 hours. After cooling, the mixture was poured into ice-water and extracted with EA three times. The EA layer was washed with brine and dried over Na2SO4. The solvent was removed and the residue was purified by column chromatography on silica gel (DCM/methanol=40/1 v/v %) to afford 8-chloro-3-(1-methyl-4,5,6,7-tetrahydro-1H-indazol-4-yl)imidazo[1,5-a]pyrazine (1.0 g, 70.4%). MS-ESI (m/z): 288 (M+1)+ (Acq Method: 10-80AB_2 min_220 &254.1 cm; Rt: 0.85 min)

reactant | N-((3-chloropyrazin-2-yl)methyl)-1-methyl-4,5,6,7-tetrahydro-1H-indazole-4-carboxamide | 4.9 mmol, 1.5 g | ClC=1C(=NC=CN1)CNC(=O)C1C=2C=NN(C2CCC1)C | C14H16ClN5O
reactant | POCl3 | 7.9 mmol, 1.2 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 0.1 mL | CN(C)C=O | C3H7NO
solvent | MeCN | 50 mL | CC#N | C2H3N
product | 8-chloro-3-(1-methyl-4,5,6,7-tetrahydro-1H-indazol-4-yl)imidazo[1,5-a]pyrazine | 1.0 g, 70.4% | ClC=1C=2N(C=CN1)C(=NC2)C2C=1C=NN(C1CCC2)C | C14H14ClN5
